US05804587
To a solution of ethylenediamine (2.93 mL) in toluene (30 mL) is slowly added a solution of 4-cyano-5,8-dimethyl-6-isothiocyanatoquinoline (2.1 g, 8.78 mmol) in toluene (100 mL). The reaction mixture is stirred at room temperature overnight. The solid which forms is filtered, washed well with toluene, and dried to afford 6-[N'-(2-aminoethyl)thioureido]-4-cyano-5,8-dimethylquinoline.

reactant | ethylenediamine | 2.93 mL | C(CN)N | C2H8N2
reactant | 4-cyano-5,8-dimethyl-6-isothiocyanatoquinoline | 8.78 mmol, 2.1 g | C(#N)C1=CC=NC2=C(C=C(C(=C12)C)N=C=S)C | C13H9N3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[N'-(2-aminoethyl)thioureido]-4-cyano-5,8-dimethylquinoline | NCCNC(NC=1C(=C2C(=CC=NC2=C(C1)C)C#N)C)=S | C15H17N5S
